US07960562B2
One drop of N,N-dimethylformamide was added to a thionyl chloride (2.03 g) suspension of 3-(chlorosulfonyl)-5-fluorobenzoic acid (1.36 g), followed by stirring at 75° C. for 1 hour. The solvent was evaporated, and this was azeotroped with toluene to obtain 3-(chlorosulfonyl)-5-fluorobenzoyl chloride (1.47 g).

reactant | thionyl chloride | 2.03 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(chlorosulfonyl)-5-fluorobenzoic acid | 1.36 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)F | C7H4ClFO4S
catalyst | N,N-dimethylformamide | One drop | CN(C=O)C | C3H7NO
product | 3-(chlorosulfonyl)-5-fluorobenzoyl chloride | 1.47 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=C(C1)F | C7H3Cl2FO3S
